US04487626
2-{[(4,6-Dimethylfuro[2,3-d]pyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoic acid, cyclopentyl ester
To 30 ml of dry methylene chloride was added 7.5 ml of 2M trimethylaluminum in toluene under a nitrogen atmosphere. Subsequently, 2.0 g of cyclopentanol in 2 ml methylene chloride was added via syringe and the mixture stirred at ambient temperature for 15 minutes. After addition of 2.0 g of methyl 2-{[(4,6-dimethylfuro[2,3-d]pyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoate to the mixture, the reaction was heated to reflux for 48 hours. The mixture was then cooled and poured into excess dilute hydrochloric acid and mixed with ethyl acetate.

reactant | trimethylaluminum | 2M, 7.5 ml | C[Al](C)C
reactant | cyclopentanol | 2.0 g | C1(CCCC1)O | C5H10O
reactant | methyl 2-{[(4,6-dimethylfuro[2,3-d]pyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoate | 2.0 g | CC=1C2=C(N=C(N1)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1)OC(=C2)C | C17H16N4O6S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[(4,6-Dimethylfuro[2,3-d]pyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoic acid, cyclopentyl ester | CC=1C2=C(N=C(N1)NC(=O)NS(=O)(=O)C1=C(C(=O)OC3CCCC3)C=CC=C1)OC(=C2)C | C21H22N4O6S
